US05581007
In 70 ml of methylene chloride was dissolved 36.03 g (0.25 mol) of Meldrum's acid. Pyridine (38.17 g, 0.48 mol) was used as a base. To the solution was added dropwise 42.52 g (0.275 mol) of phenylacetyl chloride in an ice bath while stirring. After the reaction, ice-water and diluted hydrochloric acid were added to wash. Methylene chloride was evaporated, methanol was added, followed by refluxing, and the solvent was evaporated to give 44 g (91.7%) of methyl 4-phenyl-3-oxobutyrate.

reactant | Meldrum's acid | 0.25 mol, 36.03 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | Pyridine | 0.48 mol, 38.17 g | N1=CC=CC=C1 | C5H5N
reactant | phenylacetyl chloride | 0.275 mol, 42.52 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-phenyl-3-oxobutyrate | 44 g, 91.7% | C1(=CC=CC=C1)CC(CC(=O)OC)=O | C11H12O3
